US04250096
A mixture of 2.9 g (0.01 mol) of 4-(3-nitrophthalimidyl)-cyclohexanol and 0.9 g (0.013 mol) of sodium azide in 20 ml of dimethylsulphoxide is stirred for 6 hours at 80° C. and then evaporated in vacuo at the same temperature. The residue is diluted with 20 ml of water. The product which has separated out is filtered off with suction, washed with 5 ml of water and dried for 24 hours at 80° C. in a drying cabinet. 2.6 g (91% of theory) of 4-(3-azidophthalimidyl)-cyclohexanol are obtained; melting point 155° C. (with decomposition). IR spectrum (KBr): 1775 cm-1 and 1710 cm-1 (CO--N--CO); 2130 cm-1 (N3).

reactant | 4-(3-nitrophthalimidyl)-cyclohexanol | 0.01 mol, 2.9 g | [N+](=O)([O-])C1=C2C(C(=O)N(C2=O)C2CCC(CC2)O)=CC=C1 | C14H14N2O5
reactant | sodium azide | 0.013 mol, 0.9 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylsulphoxide | 20 ml | CS(=O)C | C2H6OS
product | 4-(3-azidophthalimidyl)-cyclohexanol | 2.6 g, 91% | N(=[N+]=[N-])C1=C2C(C(=O)N(C2=O)C2CCC(CC2)O)=CC=C1 | C14H14N4O3
